US04618627
A hydrochloric acid-acidified aqueous solution obtained by following the same procedure as in Example 27 using 1.0 g of 1-(3,4-diacetoxyphenyl)-4-methyl-1-octen-3-one, was extracted twice each time with 20 ml of ether. The extract was washed with water, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure to provide 0.7 g of oily 1-(3,4-dihydroxyphenyl)-4-methyl-1-octen-3-one.

reactant | hydrochloric acid | Cl | ClH
reactant | 1-(3,4-diacetoxyphenyl)-4-methyl-1-octen-3-one | 1.0 g | C(C)(=O)OC=1C=C(C=CC1OC(C)=O)C=CC(C(CCCC)C)=O | C19H24O5
product | 1-(3,4-dihydroxyphenyl)-4-methyl-1-octen-3-one | 0.7 g | OC=1C=C(C=CC1O)C=CC(C(CCCC)C)=O | C15H20O3
